US09120793B2
(3S)-3-[4-[[2-(2,6-Dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]methoxy]phenyl]hex-4-ynoic acid
To a solution of ethyl (3S)-3-[4-[[2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]methoxy]phenyl]hex-4-ynoate (0.22 g, 0.47 mmol) in EtOH (20 mL) is added 5 N NaOH (0.3 mL) and the reaction mixture is stirred at 80° C. in a microwave instrument for 30 minutes. The reaction mixture is evaporated to dryness, diluted with water, and acidified with 6 N HCl solution to pH ˜3. The precipitated solid is filtered, washed with n-pentane, and dried to give the title compound as a white solid (0.155 g, 75%). LCMS m/z 440 (M+H)+.

reactant | ethyl (3S)-3-[4-[[2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]methoxy]phenyl]hex-4-ynoate | 0.47 mmol, 0.22 g | CC1=C(C(=CC=C1)C)C1=NN2C(C=CC(=C2)COC2=CC=C(C=C2)[C@H](CC(=O)OCC)C#CC)=N1 | C29H29N3O3
reactant | NaOH | 5 N, 0.3 mL | [OH-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | (3S)-3-[4-[[2-(2,6-Dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]methoxy]phenyl]hex-4-ynoic acid | 0.155 g, 75% | CC1=C(C(=CC=C1)C)C1=NN2C(C=CC(=C2)COC2=CC=C(C=C2)[C@H](CC(=O)O)C#CC)=N1 | C27H25N3O3
